US07491732B2
4-Nitrophenol (10 g), bromoacetamide (10 g) and K2CO3 (15 g) were suspended in acetone (30 mL). The yellow solution was stirred at rt for 3 d. The reaction mixture was diluted with water and acetone was removed under reduced pressure. The light-yellow precipitate was collected by filtration, washed with water and dried to give O-aminocarbonylmethyl-4-nitrophenol (11.5 g) as a beige solid.

reactant | 4-Nitrophenol | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | bromoacetamide | 10 g | BrCC(=O)N | C2H4BrNO
reactant | K2CO3 | 15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | O-aminocarbonylmethyl-4-nitrophenol | 11.5 g | NC(=O)COC1=CC=C(C=C1)[N+](=O)[O-] | C8H8N2O4
